US06956050B2
STEP 1. tert-butyl 2-[4-(4-tert-butyl-2-ethyl-1H-imidazol-1-yl)phenyl]ethylcarbamate
The title compound was prepared according to the procedure described in step 4 of Example 26 from tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate and 1-bromo-3,3-dimethylbutan-2-one: MS (ESI) m/z 372 [M+H]+.

reactant | tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate | C(CC)(=N)NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H25N3O2
reactant | 1-bromo-3,3-dimethylbutan-2-one | BrCC(C(C)(C)C)=O | C6H11BrO
product | tert-butyl 2-[4-(4-tert-butyl-2-ethyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | C(C)(C)(C)C=1N=C(N(C1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O)CC | C22H33N3O2
